US09315458B2
D) methyl 3-fluoro-2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
trans-Dichlorobis(triphenylphosphine)palladium(II) (1.07 g) was added to a mixture of the 2:1 mixture (7.99 g) of methyl 5-bromo-3-fluoro-2-hydroxy-4-methylbenzoate and methyl 3-fluoro-2-hydroxy-4-methylbenzoate, bis(pinacolato)diboron (11.6 g), potassium acetate (8.94 g) and toluene (160 mL) at room temperature under argon atmosphere, and the mixture was stirred at 100° C. for 2 hr. To the reaction mixture was again added trans-dichlorobis(triphenylphosphine)palladium(II) (1.07 g), and the mixture was stirred at 100° C. for 3 days. To the reaction mixture was again added trans-dichlorobis(triphenylphosphine)palladium(II) (1.07 g), and the mixture was stirred overnight at 100° C. The reaction mixture was allowed to be cooled to room temperature, water was added thereto, and the precipitate was removed by filtration. The filtrate was extracted with ethyl acetate, the organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.20 g). In addition, the title compound (4.03 g) was obtained from second fraction of column chromatography.

reactant | methyl 5-bromo-3-fluoro-2-hydroxy-4-methylbenzoate | 7.99 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)F)C | C9H8BrFO3
reactant | methyl 3-fluoro-2-hydroxy-4-methylbenzoate | FC=1C(=C(C(=O)OC)C=CC1C)O | C9H9FO3
reactant | bis(pinacolato)diboron | 11.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.94 g | C(C)(=O)[O-].[K+]
catalyst | trans-Dichlorobis(triphenylphosphine)palladium(II) | 1.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 1.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 1.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-fluoro-2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.20 g | FC=1C(=C(C(=O)OC)C=C(C1C)B1OC(C(O1)(C)C)(C)C)O | C15H20BFO5
